US08809382B2
Step1: 2-Hexyl-quinolin-3-ylamine
To the solution of quinolin-3-ylamine in ether was added tert-butyl lithium at −78° C. and was stirred for 2 hours. To the reaction mixture was added the solution of 1-Iodo-hexane in ether and was allowed to warm up to RT. The reaction was continued for 1 day. The reaction was quenched with saturated ammonium chloride solution and extracted with chloroform. The product was purified by column chromatography.

reactant | quinolin-3-ylamine | N1=CC(=CC2=CC=CC=C12)N | C9H8N2
reactant | tert-butyl lithium | C(C)(C)(C)[Li]
reactant | 1-Iodo-hexane | ICCCCCC | C6H13I
solvent | ether | CCOCC | C4H10O
product | 2-Hexyl-quinolin-3-ylamine | C(CCCCC)C1=NC2=CC=CC=C2C=C1N | C15H20N2
